US08106070B2
Palladium (II) acetate (2 mg, 0.01 mmol) was added to a degassed, ambient temperature solution of N-{2-(4-bromophenyl)-1-[1-[(dimethylamino)sulfonyl]-4-(2,2-dimethylbutyl)-1H-imidazol-2-yl]ethyl}acetamide (100 mg, 0.2 mmol), sodium tert-butoxide (77 mg, 0.8 mmol), 1-{[2-(trimethylsilyl)ethoxy]methyl}-4,5,6,7-tetrahydro-1H-pyrazolo[3,4-b]pyridine (102 mg, 0.4 mmol) and 2-(dicyclohexylphosphino)biphenyl (7 mg, 0.02 mmol) in 1,4-dioxane (5 mL). After stirring at 110° C. overnight, the reaction mixture was cooled, diluted with water and extracted with methylene chloride and ethyl acetate. The combined organic extracts were dried (magnesium sulfate) and concentrated in vacuo. Chromatography over silica eluting with 0-60% acetone/methylene chloride afforded N-{1-[1-[(dimethylamino)sulfonyl]-4-(2,2-dimethylbutyl)-1H-imidazol-2-yl]-2-[4-(1-{[2-(trimethylsilyl)ethoxy]methyl}-1,4,5,6-tetrahydro-7H-pyrazolo[3,4-b]pyridin-7-yl)phenyl]ethyl}acetamide.

reactant | N-{2-(4-bromophenyl)-1-[1-[(dimethylamino)sulfonyl]-4-(2,2-dimethylbutyl)-1H-imidazol-2-yl]ethyl}acetamide | 0.2 mmol, 100 mg | BrC1=CC=C(C=C1)CC(C=1N(C=C(N1)CC(CC)(C)C)S(=O)(=O)N(C)C)NC(C)=O | C21H31BrN4O3S
reactant | sodium tert-butoxide | 0.8 mmol, 77 mg | CC(C)([O-])C.[Na+]
reactant | 1-{[2-(trimethylsilyl)ethoxy]methyl}-4,5,6,7-tetrahydro-1H-pyrazolo[3,4-b]pyridine | 0.4 mmol, 102 mg | C[Si](CCOCN1N=CC2=C1NCCC2)(C)C | C12H23N3OSi
reactant | 2-(dicyclohexylphosphino)biphenyl | 0.02 mmol, 7 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=CC=CC=C1)C1CCCCC1 | C24H31P
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
catalyst | Palladium (II) acetate | 0.01 mmol, 2 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | N-{1-[1-[(dimethylamino)sulfonyl]-4-(2,2-dimethylbutyl)-1H-imidazol-2-yl]-2-[4-(1-{[2-(trimethylsilyl)ethoxy]methyl}-1,4,5,6-tetrahydro-7H-pyrazolo[3,4-b]pyridin-7-yl)phenyl]ethyl}acetamide | CN(S(=O)(=O)N1C(=NC(=C1)CC(CC)(C)C)C(CC1=CC=C(C=C1)N1C2=C(CCC1)C=NN2COCC[Si](C)(C)C)NC(C)=O)C | C33H53N7O4SSi
